US04678792
2-(2-Fluorobenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydroisoquinoline and 2-fluorobenzyl chloride in ethylene chloride. Melting point: 196°-198° C. (Decomp.)

reactant | 6,7-dimethoxy-3,4-dihydroisoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | 2-fluorobenzyl chloride | FC1=C(CCl)C=CC=C1 | C7H6ClF
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 2-(2-Fluorobenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].FC1=C(C[N+]2=CC3=CC(=C(C=C3CC2)OC)OC)C=CC=C1 | InChI=1S/C18H19FNO2.ClH/c1-21-17-9-13-7-8-20(12-15(13)10-18(17)22-2)11-14-5-3-4-6-16(14)19;/h3-6,9-10,12H,7-8,11H2,1-2H3;1H/q+1;/p-1
